US08383644B2
(S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester
(S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (62 g), 200 mL anhydrous MeOH, and 26 mL concentrated hydrochloric acid were stirred together overnight at 70° C. The mixture was then evaporated and the residue resuspended in 500 mL acetonitrile with vigorous stirring to wash all the solid material. Stirring continued for 18 h at r.t., after which the solid product was collected by filtration, washed with 100 mL acetonitrile, and dried under vacuum overnight. Yield 77 g (quantitative). 1H NMR (400 MHz, MeOH-d4): 6.64 (s, 1H), 6.61 (s, 1H), 4.42-4.36 (m, 1H), 4.29-4.24 (m, 2H), 3.89 (s, 3H), 3.29-3.22 (m, 1H), 3.11-3.02 (m, 1H).

reactant | (S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 62 g | OC=1C=C2C[C@H](NCC2=CC1O)C(=O)O | C10H11NO4
reactant | hydrochloric acid | 26 mL | Cl | ClH
reactant | MeOH | 200 mL | CO | CH4O
product | (S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester | COC(=O)[C@H]1NCC2=CC(=C(C=C2C1)O)O | C11H13NO4
